US06809097B1
4-Chloro-6,7-dimethoxyquinoline hydrochloride was dissolved in ethyl acetate, and the solution washed with a saturated solution of sodium hydrogen carbonate and then brine, dried (MgSO4) and the volatiles removed by evaporation. The crude product was purified by flash chromatography eluting with methylene chloride/acetonitrile (9/1 followed by 8/2) to give 4-chloro-6,7-dimethoxyquinoline (2.5 g, 80%) as a yellow solid.

reactant | 4-Chloro-6,7-dimethoxyquinoline hydrochloride | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6,7-dimethoxyquinoline | 2.5 g, 80% | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
